US05350872
Preparation of 1,1-di(ethoxycarbonyl)-2-carboxyethane
After weighing in 14.4 g (0.1 mol) of Meldrum's acid and 17.4 g (0.1 mol, 15.5 ml) of diethyl mesoxalate to 100 ml of the mixture of formic acid and triethylamine prepared as described in Example 1, the reaction mixture was heated to 95° C. during 1 hour and reacted at the same temperature for 2 hours. After cooling the reaction mixture to room temperature, adding 350 ml of water and adjusting the pH value to 2 with concentrated hydrochloric acid, the aqueous solution was extracted with 200 ml and then with 100 ml of chloroform. The combined chloroform extract was stirred with 5 g of sodium sulfate and 1 g of activated charcoal at room temperature for 30 minutes, then filtered and the chloroform was distilled off under reduced pressure. After adding 25 ml of diethyl ether to the evaporation residue the mixture was let stand at 0°-5° C. for 16 hours. After filtering the white solid precipitate, ether was evaporated from the filtrate to give the aimed product as a liquid residue.

reactant | Meldrum's acid | 0.1 mol, 14.4 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | diethyl mesoxalate | 0.1 mol, 15.5 ml, 17.4 g | C(C(=O)C(=O)OCC)(=O)OCC | C7H10O5
reactant | formic acid | C(=O)O | CH2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 350 ml | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,1-di(ethoxycarbonyl)-2-carboxyethane | C(C)OC(=O)C(CC(=O)O)C(=O)OCC | C9H14O6
